US07115615B2
4-(6-chloro-2,3-methylenedioxyanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline dihydrochloride salt
Using an analogous procedure to that described in Example 11, 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-(6-chloro-2,3-methylenedioxyanilino)-6-methoxyquinazoline was reacted with trifluoroacetic acid. The material so obtained was triturated under a 6M solution of hydrogen chloride in diethyl ether. There was thus obtained the title compound; NMR Spectrum: (DMSOd6) 1.5–1.65 (m, 2H), 2.0 (d, 2H), 2.2 (m, 1H), 2.95 (m, 2H), 3.2–3.4 (m, 2H), 4.02 (s, 3H), 4.12 (d, 2H), 6.15 (s, 2H), 7.05 (d, 1H), 7.15 (d, 1H), 7.42 (s, 1H), 8.22 (s, 1H), 8.8 (s, 1H); Mass Spectrum: M+H+ 443 and 445.

reactant | 7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-4-(6-chloro-2,3-methylenedioxyanilino)-6-methoxyquinazoline | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1Cl)OCO2)OC | C27H31ClN4O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(6-chloro-2,3-methylenedioxyanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline dihydrochloride salt | Cl.Cl.ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=C(C=C13)OC)OCC1CCNCC1)OCO2 | InChI=1S/C22H23ClN4O4.2ClH/c1-28-18-8-14-16(9-19(18)29-10-13-4-6-24-7-5-13)25-11-26-22(14)27-20-15(23)2-3-17-21(20)31-12-30-17;;/h2-3,8-9,11,13,24H,4-7,10,12H2,1H3,(H,25,26,27);2*1H
